US07470693B2
E) N1-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenyl)-N2-benzyloxalamide
To 4-(4-(2-(benzylamino)-2-oxoacetamido)-2-fluorophenoxy)picolinamide (41 mg, 0.10 mmol) in DMF (0.5 mL), water (5 μL, 0.26 mmol), and pyridine (32 μL, 0.39 mmol) was added [bis(trifluoroacetoxy)iodo]benzene (60 mg, 0.14 mmol, Aldrich). After stirring at rt for 2 h, the reaction was diluted with ethyl acetate (20 mL), washed with 10% aqueous lithium chloride solution (2×10 mL) followed by brine (10 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel (EtOAc/0-5% MeOH) to give the title compound as a white solid. The solid was suspended in ethyl acetate (3 mL) and 0.5 mL of 1 N HCl in ether was added. The mixture was concentrated in vacuo and the residue was lyophilized from acetonitrile (1 mL)/water (3 mL) to give the HCl salt of the title compound (25 mg, 60%) as a white solid. 1H NMR (DMSO-d6) δ 11.05 (s, 1H), 9.57 (t, 1H, J=6 Hz), 7.96 (dd, 1H, J=12.8, 2 Hz), 7.91 (d, 1H, J=7.2 Hz), 7.81 (br s, 2H), 7.76 (d, 1H, J=8.8 Hz), 7.43 (t, 1H, J=8.8 Hz), 7.29-7.17 (m, 5H), 6.64 (dd, 1H, J=7.2, 2.8 Hz), 6.10 (d, 1H, J=2 Hz), 4.34 (d, 2H, J=6.4 Hz); MS (ESI+) m/z 381.24 (M+H)+.

reactant | 4-(4-(2-(benzylamino)-2-oxoacetamido)-2-fluorophenoxy)picolinamide | 0.10 mmol, 41 mg | C(C1=CC=CC=C1)NC(C(=O)NC1=CC(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)=O | C21H17FN4O4
reactant | water | 0.26 mmol, 5 μL | O | H2O
reactant | pyridine | 0.39 mmol, 32 μL | N1=CC=CC=C1 | C5H5N
reactant | [bis(trifluoroacetoxy)iodo]benzene | 0.14 mmol, 60 mg | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N1-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenyl)-N2-benzyloxalamide | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(C(=O)NCC1=CC=CC=C1)=O)F | C20H17FN4O3
